US06268391B1
3-(3,5-Dibromo-4-pivaloyloxymethoxy-benzylidene)-2-oxo-2,3-dihydro-5-chloro-1H-indole
A solution of 3-(3,5-dibromo-4-hydroxy-benzylidene)-2-oxo-2,3-dihydro-5-chloro-1 H-indole (0.43 g, 1.0 mmol) in dry acetonitrile (20 mL) under nitrogen was treated with potassium tert-butoxide (0.12 g, 1.1 mmol) at room temperature. The resulting orange heterogenous mixture was treated with 18-crown-6 (0.053 g, 0.20 mmol) and stirred for 15 minutes before adding chloromethylpivalate (0.40 mL, 2.8 mmol). The reaction was heated to seventy degrees celsius, stirred for three hours then filtered while hot. The filtrate was allowed to cool to room temperature and stirred overnight. The resulting solids were collected on a filter, washed with acetonitrile and dried under vacuum to provide the title compound (0.24 g, 44%) as a mixture of E/Z isomers. 1H NMR (DMSO-d6): (mixture of E/Z isomers) δ10.93 (s, 1H), 10.87(s, 1H), 8.85 (s, 2H), 8.09 (s, 2H), 7.94 (s, 1H), 7.84 (d, 1H), 7.67 (s, 1H), 7.32-7.39 (m, 3H), 6.96 (d, 1H), 6.91 (d, 1H), 5.91 (s, 2H), 5.88 (s, 2H), 1.23 (s, 9H), 1.22 (s, 9H). MS (ES-): 542 (60) (M−1). Anal. Calcd for C21H18NO4ClBr2: C, 46.40; H, 3.34; N, 2.58. Found: C, 46.33; H, 3.30; N, 2.55.

reactant | 3-(3,5-dibromo-4-hydroxy-benzylidene)-2-oxo-2,3-dihydro-5-chloro-1 H-indole | 1.0 mmol, 0.43 g | BrC=1C=C(C=C2C(NC3=CC=C(C=C23)Cl)=O)C=C(C1O)Br | C15H8Br2ClNO2
reactant | potassium tert-butoxide | 1.1 mmol, 0.12 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.20 mmol, 0.053 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | chloromethylpivalate | 2.8 mmol, 0.40 mL | ClCCC(C(=O)[O-])(C)C
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(3,5-Dibromo-4-pivaloyloxymethoxy-benzylidene)-2-oxo-2,3-dihydro-5-chloro-1H-indole | 0.24 g, 44% | BrC=1C=C(C=C2C(NC3=CC=C(C=C23)Cl)=O)C=C(C1OCOC(C(C)(C)C)=O)Br | C21H18Br2ClNO4
